US06521643B1
To a stirred solution of 4-dimethylamino-2-methylpyridine (1.30 g) in tetrahydrofuran (13 ml) was added a solution of n-butyllithium in n-hexane (1.56M, 7.34 ml) dropwise at −50° C. under a nitrogen atmosphere, and the mixture was warmed to 0° C. The mixture was cooled to −50° C., and N,N-dimethylacetamide (1.15 ml) was added dropwise. Then the mixture was warmed to room temperature, poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate (100 ml×3). The combined organic layer was washed with brine, dried over sodium sulfate and-evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 50 g, 20% methanol in dichloromethane) to give 1-(4-dimethylaminopyridin-2-yl)propan-2-one (1.29 g).

reactant | 4-dimethylamino-2-methylpyridine | 1.30 g | CN(C1=CC(=NC=C1)C)C | C8H12N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylacetamide | 1.15 ml | CN(C(C)=O)C | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.56M, 7.34 ml | CCCCCC | C6H14
product | 1-(4-dimethylaminopyridin-2-yl)propan-2-one | 1.29 g | CN(C1=CC(=NC=C1)CC(C)=O)C | C10H14N2O
